US06891039B2
4-(4-Fluorophenyl)-2-(1-methylpiperidin-4-yl)-5-(2-(1-(S)-Phenylethyl)amino-4-pyridinyl)thiazole
4-(4-Fluorophenyl)-2-(4-piperidinyl)-5-(2-(1-(S)-phenylethyl)amino-4-pyridinyl)thiazole (500 mg 1.09 mmol) is dissolved in MeOH (11 ml) and treated with an aqueous 36%-solution of formaldehyde (0.17 ml 2.18 mmol) and NaBH4 (83 mg 2.18 mmol), which is added as a solid in 3 portions. After 30 min at room temperature the reaction mixture is poured on water and extracted three times with ethyl acetate. The combined organic phases are dried over Na2SO4, filtered, evaporated to dryness and purified by SiO2 chromatography (tert.butyl methyl ether/MeOH/NH3conc. 95/4.5/0.5) to yield the title compound (550 mg 86%) as pale yellow foam.

reactant | 4-(4-Fluorophenyl)-2-(4-piperidinyl)-5-(2-(1-(S)-phenylethyl)amino-4-pyridinyl)thiazole | 1.09 mmol, 500 mg | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C1CCNCC1 | C27H27FN4S
reactant | formaldehyde | 2.18 mmol, 0.17 ml | C=O | CH2O
reactant | NaBH4 | 2.18 mmol, 83 mg | [BH4-].[Na+]
solvent | MeOH | 11 ml | CO | CH4O
product | 4-(4-Fluorophenyl)-2-(1-methylpiperidin-4-yl)-5-(2-(1-(S)-Phenylethyl)amino-4-pyridinyl)thiazole | 550 mg, 86% | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C1CCN(CC1)C | C28H29FN4S
